US05364871
A mixture of 2-(diaminomethyleneamino)-4-(6-propionylaminomethylpyridin-2-yl)thiazole (49.0 g) and conc. hydrochloride acid (134 ml) in ethanol (500 ml) was heated under reflux for 7 hours and after the mixture was cooled to ambient temperature. To the mixture was added ethanol (500 ml) with stirring and the isolated precipitate was collected by filtration to give 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride (52.36 g).

reactant | 2-(diaminomethyleneamino)-4-(6-propionylaminomethylpyridin-2-yl)thiazole | 49.0 g | NC(N)=NC=1SC=C(N1)C1=NC(=CC=C1)CNC(CC)=O | C13H16N6OS
reactant | hydrochloride | 134 ml | Cl | ClH
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride | 52.36 g | Cl.Cl.Cl.NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N | InChI=1S/C10H12N6S.3ClH/c11-4-6-2-1-3-7(14-6)8-5-17-10(15-8)16-9(12)13;;;/h1-3,5H,4,11H2,(H4,12,13,15,16);3*1H
